*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 4.0
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_0 1 2 3 4 REF
C_C1 1 REF 0.5537541242727pf
C_C2 1 2 20.01549028532pf
C_C3 1 3 0.0531655358634pf
C_C4 1 4 0.2561388503268pf
C_C5 2 REF 0.8269002191363pf
C_C6 2 3 0.1770658878041pf
C_C7 3 REF 1.0065046041688pf
C_C8 3 4 4.4052771986115pf
C_C9 4 REF 1.1218222234079pf
L_L1 3 5 1.2924607112457nh
R_RL1 5 4 -1.869073344e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_1 1 2 3 4 REF
C_C1 1 REF 0.5217023087868pf
C_C2 1 2 20.564936491375pf
C_C3 1 3 0.046336251828pf
C_C4 1 4 0.2665634127864pf
C_C5 2 REF 0.802214299729pf
C_C6 2 3 0.1670988391977pf
C_C7 3 REF 1.0232918082894pf
C_C8 3 4 3.2171881992692pf
C_C9 4 REF 1.1058127043501pf
L_L1 3 5 1.2934029109941nh
R_RL1 5 4 6.0582911829e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_2 1 2 3 4 REF
C_C1 1 REF 0.4936927571235pf
C_C2 1 2 21.208598535745pf
C_C3 1 3 0.0401411612738pf
C_C4 1 4 0.2772506850585pf
C_C5 2 REF 0.7831085692521pf
C_C6 2 3 0.1601437460897pf
C_C7 3 REF 1.0364458529201pf
C_C8 3 4 2.3876626329041pf
C_C9 4 REF 1.0934940574269pf
L_L1 3 5 1.2941883970307nh
R_RL1 5 4 3.4584330933e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_3 1 2 3 4 REF
C_C1 1 REF 0.4643423969568pf
C_C2 1 2 22.133794758074pf
C_C3 1 3 0.0329960767277pf
C_C4 1 4 0.2912097457948pf
C_C5 2 REF 0.7671232726322pf
C_C6 2 3 0.1547555589199pf
C_C7 3 REF 1.0489962853231pf
C_C8 3 4 1.6742041789225pf
C_C9 4 REF 1.0819441858197pf
L_L1 3 5 1.2949828240982nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_4 1 2 3 4 REF
C_C1 1 REF 0.4362178105809pf
C_C2 1 2 23.37462464501pf
C_C3 1 3 0.0250598774628pf
C_C4 1 4 0.3087023792545pf
C_C5 2 REF 0.7577627130877pf
C_C6 2 3 0.1517952784712pf
C_C7 3 REF 1.0599241131031pf
C_C8 3 4 1.1029719443129pf
C_C9 4 REF 1.0720262681514pf
L_L1 3 5 1.2957769510127nh
R_RL1 5 4 -2.562385271e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_5 1 2 3 4 REF
C_C1 1 REF 0.4140380452538pf
C_C2 1 2 24.758351588862pf
C_C3 1 3 0.0175110052003pf
C_C4 1 4 0.3272897533479pf
C_C5 2 REF 0.7573544999212pf
C_C6 2 3 0.1517822112802pf
C_C7 3 REF 1.0675257869026pf
C_C8 3 4 0.7256051591779pf
C_C9 4 REF 1.0651763218348pf
L_L1 3 5 1.2964123817917nh
R_RL1 5 4 -5.184391694e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_6 1 2 3 4 REF
C_C1 1 REF 0.3959833247192pf
C_C2 1 2 26.282533920991pf
C_C3 1 3 0.0101288021779pf
C_C4 1 4 0.3471097517496pf
C_C5 2 REF 0.7639043738014pf
C_C6 2 3 0.1540232825293pf
C_C7 3 REF 1.0727130753357pf
C_C8 3 4 0.467694743246pf
C_C9 4 REF 1.0604902003864pf
L_L1 3 5 1.2969326497093nh
R_RL1 5 4 -7.710000773e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_7 1 2 3 4 REF
C_C1 1 REF 0.3780212377948pf
C_C2 1 2 28.261297888131pf
C_C3 1 4 0.3721570109329pf
C_C4 2 REF 0.7783177156809pf
C_C5 2 3 0.1589510093552pf
C_C6 3 REF 1.0765325448882pf
C_C7 3 4 0.2625403474811pf
C_C8 4 REF 1.0569939372296pf
L_L1 3 5 1.2974224280412nh
R_RL1 5 4 -1.020847794e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_8 1 2 3 4 REF
C_C1 1 REF 0.3591660743573pf
C_C2 1 2 30.785616217379pf
C_C3 1 4 0.4033357952091pf
C_C4 2 REF 0.8008062005852pf
C_C5 2 3 0.16691031694pf
C_C6 3 REF 1.0788917462294pf
C_C7 3 4 0.1052395873682pf
C_C8 4 REF 1.0547771795798pf
L_L1 1 5 85.073358190217nh
R_RL1 5 2 3.128828223782
L_L2 3 6 1.2978535946665nh
R_RL2 6 4 -1.241514947e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_9 1 2 3 4 REF
C_C1 1 REF 0.3370375662993pf
C_C2 1 2 34.080523306396pf
C_C3 1 4 0.4429945919977pf
C_C4 2 REF 0.8320619013695pf
C_C5 2 3 0.1786445437862pf
C_C6 3 REF 1.0797835771854pf
C_C7 4 REF 1.0538898327929pf
L_L1 1 5 53.40096313497nh
R_RL1 5 2 2.9094089063583
L_L2 3 6 1.2981619412442nh
R_RL2 6 4 -1.391652149e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_10 1 2 3 4 REF
C_C1 1 REF 0.308275731144pf
C_C2 1 2 38.428164975949pf
C_C3 1 4 0.4940253084027pf
C_C4 2 REF 0.8724246306141pf
C_C5 2 3 0.1949024915526pf
C_C6 3 REF 1.0794462736358pf
C_C7 4 REF 1.0541884890977pf
L_L1 1 5 33.365452723751nh
R_RL1 5 2 1.9216941086142
L_L2 3 6 1.2979948414843nh
R_RL2 6 4 -1.432503232e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_11 1 2 3 4 REF
C_C1 1 REF 0.266935636304pf
C_C2 1 2 44.480640588224pf
C_C3 1 4 0.5633549627261pf
C_C4 2 REF 0.9251065159281pf
C_C5 2 3 0.2177522893165pf
C_C6 3 REF 1.0781068117913pf
C_C7 4 REF 1.0555539439682pf
R_R1 1 2 -801.7558897851
L_L1 1 5 20.560822845037nh
R_RL1 5 2 0.8454926140912
L_L2 3 6 1.2976705981343nh
R_RL2 6 4 -1.326791953e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_12 1 2 3 4 REF
C_C1 1 REF 0.2044604696879pf
C_C2 1 2 53.290226857415pf
C_C3 1 4 0.662346675242pf
C_C4 2 REF 0.9966398801599pf
C_C5 2 3 0.2506667433438pf
C_C6 3 REF 1.076072946385pf
C_C7 4 REF 1.0577848018506pf
R_R1 1 2 -579.3874898966
L_L1 1 5 12.324827768314nh
R_RL1 5 2 0.0202279267141
L_L2 3 6 1.2971734770664nh
R_RL2 6 4 -1.047430724e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_13 1 2 3 4 REF
C_C1 1 REF 0.1017115894675pf
C_C2 1 2 67.410729085641pf
C_C3 1 4 0.8189864326291pf
C_C4 2 REF 1.1052609025583pf
C_C5 2 3 0.3025967041291pf
C_C6 3 REF 1.0735488174686pf
C_C7 4 REF 1.0608203900245pf
R_R1 1 2 -473.7422267891
L_L1 1 5 7.1375799795396nh
R_RL1 5 2 -0.472207349345
L_L2 3 6 1.2963311360571nh
R_RL2 6 4 -6.259177462e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_14 1 2 3 4 REF
C_C1 1 2 92.394413555796pf
C_C2 1 4 1.0945396323798pf
C_C3 2 REF 1.2920651581719pf
C_C4 2 3 0.3933616487538pf
C_C5 3 REF 1.0706484923385pf
C_C6 4 REF 1.064814086919pf
R_R1 1 2 -439.5516590917
L_L1 1 5 3.5507159791756nh
R_RL1 5 2 0.1166233179584
L_L2 3 6 1.294947730616nh
R_RL2 6 4 -1.718201906e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_15 1 2 3 4 REF
C_C1 1 2 146.31829279954pf
C_C2 1 4 1.6886401586165pf
C_C3 2 REF 1.6911466244728pf
C_C4 2 3 0.5878921566915pf
C_C5 3 REF 1.0670812440217pf
C_C6 4 REF 1.070982383019pf
R_R1 1 2 -558.6548712791
L_L1 1 5 1.5489208338449nh
R_RL1 5 2 0.0151859806783
L_L2 1 6 65.90086632412nh
R_RL2 6 3 -0.110981214142
L_L3 1 7 65.166607552178nh
R_RL3 7 4 -0.113724762436
L_L4 2 8 65.992020749442nh
R_RL4 8 3 0.030931297535
L_L5 2 9 65.260593338987nh
R_RL5 9 4 0.0312179683505
L_L6 3 10 1.292039822565nh
R_RL6 10 4 2.8727056486e-5
Kn_K1 L_L1 L_L2 0.0721435933991
Kn_K2 L_L1 L_L3 0.0724079817813
Kn_K3 L_L1 L_L4 -0.081109823688
Kn_K4 L_L1 L_L5 -0.081703895688
Kn_K5 L_L2 L_L3 0.9901577157189
Kn_K6 L_L2 L_L4 0.988256457656
Kn_K7 L_L2 L_L5 0.978330043638
Kn_K8 L_L2 L_L6 -0.109796863962
Kn_K9 L_L3 L_L4 0.9783804680261
Kn_K10 L_L3 L_L5 0.9881245065267
Kn_K11 L_L3 L_L6 0.0303936777172
Kn_K12 L_L4 L_L5 0.990171457956
Kn_K13 L_L4 L_L6 -0.109567692901
Kn_K14 L_L5 L_L6 0.0305259546389
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_16 1 2 3 4 REF
C_C1 1 2 329.0549996769pf
C_C2 1 4 3.7036964473504pf
C_C3 2 REF 3.0416986978078pf
C_C4 2 3 1.2451390131774pf
C_C5 3 REF 1.0602360109496pf
C_C6 4 REF 1.0873169274711pf
R_R1 1 2 299.06157535555
L_L1 1 5 56.199501194026nh
R_RL1 5 REF 0.6639598971225
L_L2 1 6 0.4724759810111nh
R_RL2 6 2 -7.498378004e-3
L_L3 1 7 23.264744653448nh
R_RL3 7 3 -0.036396255745
L_L4 1 8 22.575480898486nh
R_RL4 8 4 -0.038812500916
L_L5 2 9 55.844599199774nh
R_RL5 9 REF 0.5454743619809
L_L6 2 10 23.342799146144nh
R_RL6 10 3 0.0092093706509
L_L7 2 11 22.657430451298nh
R_RL7 11 4 0.0093100340548
L_L8 3 12 78.867800458945nh
R_RL8 12 REF 0.5513209304035
L_L9 3 13 1.2825517984633nh
R_RL9 13 4 6.6287903621e-5
L_L10 4 14 78.16620157615nh
R_RL10 14 REF 0.5499053111326
Kn_K1 L_L1 L_L2 0.0802819406245
Kn_K2 L_L1 L_L5 0.9957881203412
Kn_K3 L_L1 L_L8 0.8396642167902
Kn_K4 L_L1 L_L10 0.8433310446187
Kn_K5 L_L2 L_L3 0.0594828212868
Kn_K6 L_L2 L_L4 0.0597877294764
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082886735199
Kn_K9 L_L2 L_L7 -0.084726259221
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9721311587684
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9898640596499
Kn_K15 L_L3 L_L7 0.9617818554502
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.180488564229
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9619984725572
Kn_K21 L_L4 L_L7 0.9895562211858
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0551289395153
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8390661723817
Kn_K26 L_L5 L_L10 0.8427005499881
Kn_K27 L_L6 L_L7 0.9722264953829
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.179830614832
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0553904292933
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0986409697726
Kn_K35 L_L8 L_L10 0.9918425484144
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_17 1 2 3 4 REF
C_C1 1 2 4053.3827791333pf
C_C2 1 4 44.729939791818pf
C_C3 2 REF 30.538396019378pf
C_C4 2 3 14.597545416898pf
C_C5 3 REF 0.9601182810755pf
C_C6 4 REF 1.3907124496216pf
R_R1 1 REF -108.1927230206
R_R2 1 2 1.259150349449
R_R3 1 3 -187.8458693803
R_R4 1 4 68.194890421453
R_R5 2 REF 108.32334963231
R_R6 2 3 187.90526399742
R_R7 2 4 -68.20822897362
L_L1 1 5 2.9070475065807nh
R_RL1 5 REF 0.0035079299598
L_L2 1 6 0.0259992551525nh
R_RL2 6 2 -5.147835006e-3
L_L3 1 7 2.0842656374809nh
R_RL3 7 3 -2.792091084e-3
L_L4 1 8 1.5097403729613nh
R_RL4 8 4 -5.471228309e-3
L_L5 2 9 2.8904176264132nh
R_RL5 9 REF -6.429530695e-3
L_L6 2 10 2.0888866723484nh
R_RL6 10 3 -2.007245622e-4
L_L7 2 11 1.5189153087577nh
R_RL7 11 4 3.7184045815e-4
L_L8 3 12 4.9640273599658nh
R_RL8 12 REF -2.407158318e-3
L_L9 3 13 1.1121149828098nh
R_RL9 13 4 -2.553760861e-4
L_L10 4 14 4.3831456723184nh
R_RL10 14 REF -5.653156027e-3
Kn_K1 L_L1 L_L2 0.0775300404164
Kn_K2 L_L1 L_L5 0.9955195054769
Kn_K3 L_L1 L_L8 0.7616685472937
Kn_K4 L_L1 L_L10 0.8096789475598
Kn_K5 L_L2 L_L3 0.0459181692845
Kn_K6 L_L2 L_L4 0.0424596021276
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.06569637574
Kn_K9 L_L2 L_L7 -0.088500737241
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.013390545934
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6995601216587
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9937704855546
Kn_K16 L_L3 L_L7 0.6914365298483
Kn_K17 L_L3 L_L8 0.8995297934304
Kn_K18 L_L3 L_L9 -0.553912395104
Kn_K19 L_L3 L_L10 0.9562300281812
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.694048958379
Kn_K22 L_L4 L_L7 0.9914201282932
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2074411818062
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7610514042385
Kn_K27 L_L5 L_L10 0.8083799190936
Kn_K28 L_L6 L_L7 0.7005447805734
Kn_K29 L_L6 L_L8 0.8952345828808
Kn_K30 L_L6 L_L9 -0.551805474206
Kn_K31 L_L6 L_L10 0.9509077253502
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.208565624186
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.36027504343
Kn_K36 L_L8 L_L10 0.8827274535399
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_18 1 2 3 4 REF
C_C1 1 REF 33.541599080205pf
C_C2 1 3 16.111798420078pf
C_C3 2 4 49.257565334615pf
C_C4 3 REF 1.1840474327604pf
C_C5 4 REF 0.69871800342pf
R_R1 1 REF 121.63019480076
R_R2 1 2 -1.599653789127
R_R3 1 3 204.12549841378
R_R4 1 4 -75.56638903713
R_R5 2 REF -121.2648315842
R_R6 2 3 -204.0966354508
R_R7 2 4 75.563585990138
L_L1 1 5 2.1914512984433nh
R_RL1 5 REF 0.0040013432809
L_L2 1 6 0.1977729223437nh
R_RL2 6 2 0.987643333759
L_L3 1 7 1.7551596719174nh
R_RL3 7 3 0.3835626017058
L_L4 1 8 1.2564011057872nh
R_RL4 8 4 0.6611812595972
L_L5 2 9 2.3522767625178nh
R_RL5 9 REF 1.0901518801185
L_L6 2 10 1.7174788903363nh
R_RL6 10 3 0.1403034336102
L_L7 2 11 1.1645224050006nh
R_RL7 11 4 0.0320123258759
L_L8 3 12 3.9314408259674nh
R_RL8 12 REF 0.4485769890298
L_L9 3 13 1.0618882701653nh
R_RL9 13 4 0.0375059270381
L_L10 4 14 3.4367382510722nh
R_RL10 14 REF 0.7442504918029
Kn_K1 L_L1 L_L2 0.0280611357291
Kn_K2 L_L1 L_L5 0.957073127472
Kn_K3 L_L1 L_L8 0.7440193807464
Kn_K4 L_L1 L_L10 0.7965077428881
Kn_K5 L_L2 L_L3 0.1998176282777
Kn_K6 L_L2 L_L4 0.2905349613608
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.137344381226
Kn_K9 L_L2 L_L7 -0.110327792015
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0591329833477
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.65646141005
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9431037489384
Kn_K16 L_L3 L_L7 0.5995204736636
Kn_K17 L_L3 L_L8 0.8313652057649
Kn_K18 L_L3 L_L9 -0.571579853875
Kn_K19 L_L3 L_L10 0.8900155569809
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5650328495321
Kn_K22 L_L4 L_L7 0.9189688835126
Kn_K23 L_L4 L_L8 0.9826209183965
Kn_K24 L_L4 L_L9 0.2437669782156
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0344071601401
Kn_K27 L_L5 L_L7 0.0241864666578
Kn_K28 L_L5 L_L8 0.7507728065816
Kn_K29 L_L5 L_L9 -0.018429411497
Kn_K30 L_L5 L_L10 0.8132361140895
Kn_K31 L_L6 L_L7 0.6435002703632
Kn_K32 L_L6 L_L8 0.8786320460491
Kn_K33 L_L6 L_L9 -0.597882258039
Kn_K34 L_L6 L_L10 0.9517330736804
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.228831729726
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.3809159803907
Kn_K39 L_L8 L_L10 0.8578174927696
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_19 1 2 3 4 REF
C_C1 1 2 285.77569894944pf
C_C2 1 4 3.2207295461401pf
C_C3 2 REF 2.7216037557708pf
C_C4 2 3 1.090414485476pf
C_C5 3 REF 1.0576704798067pf
C_C6 4 REF 1.0839187261646pf
R_R1 1 2 -49.87851172086
L_L1 1 5 38.482660956288nh
R_RL1 5 REF 1.0550074978048
L_L2 1 6 0.174664844744nh
R_RL2 6 2 0.0111684346831
L_L3 1 7 15.406752825996nh
R_RL3 7 3 -0.011676685584
L_L4 1 8 14.713461107715nh
R_RL4 8 4 -0.013640671975
L_L5 2 9 38.091678224633nh
R_RL5 9 REF 0.9879876527331
L_L6 2 10 15.52430922524nh
R_RL6 10 3 0.0073561156071
L_L7 2 11 14.839031985093nh
R_RL7 11 4 0.0070067710074
L_L8 3 12 53.527344524098nh
R_RL8 12 REF 1.0073585187753
L_L9 3 13 1.2726435525943nh
R_RL9 13 4 1.400969619e-4
L_L10 4 14 52.819575019937nh
R_RL10 14 REF 1.0048695679438
Kn_K1 L_L1 L_L2 0.109088918612
Kn_K2 L_L1 L_L5 0.9977320217199
Kn_K3 L_L1 L_L8 0.8439113315024
Kn_K4 L_L1 L_L10 0.8493860583315
Kn_K5 L_L2 L_L3 0.0174065232467
Kn_K6 L_L2 L_L4 0.0153122129404
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.088730493317
Kn_K9 L_L2 L_L7 -0.093245274379
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9580016687014
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9943602741002
Kn_K15 L_L3 L_L7 0.95205117721
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.221988394572
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9527434047819
Kn_K21 L_L4 L_L7 0.9940986488999
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0669424460181
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8426002581588
Kn_K26 L_L5 L_L10 0.8479760709814
Kn_K27 L_L6 L_L7 0.9583302856692
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.220244762569
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0675807275008
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1199732835193
Kn_K35 L_L8 L_L10 0.9880549764874
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_20 1 2 3 4 REF
C_C1 1 REF 0.0762812531764pf
C_C2 1 2 73.366030053062pf
C_C3 1 4 0.871113738387pf
C_C4 2 REF 1.1517939123417pf
C_C5 2 3 0.3248210611048pf
C_C6 3 REF 1.0630021738059pf
C_C7 4 REF 1.0650811397721pf
R_R1 1 2 -295.1666908603
L_L1 1 5 0.6269660490442nh
R_RL1 5 2 0.4462443162147
L_L2 1 6 58.296273349008nh
R_RL2 6 3 -0.053204021119
L_L3 1 7 57.45522942877nh
R_RL3 7 4 -0.054737776165
L_L4 2 8 58.934003463428nh
R_RL4 8 3 0.3843998750617
L_L5 2 9 58.098154345881nh
R_RL5 9 4 0.3721876117233
L_L6 3 10 1.2867031749303nh
R_RL6 10 4 2.1904523965e-4
Kn_K1 L_L1 L_L4 -0.104028232908
Kn_K2 L_L1 L_L5 -0.105204243566
Kn_K3 L_L2 L_L3 0.9889100227592
Kn_K4 L_L2 L_L4 0.994666559818
Kn_K5 L_L2 L_L5 0.9835155494004
Kn_K6 L_L2 L_L6 -0.122837346929
Kn_K7 L_L3 L_L4 0.9836820548322
Kn_K8 L_L3 L_L5 0.9945896250385
Kn_K9 L_L3 L_L6 0.0259160593644
Kn_K10 L_L4 L_L5 0.989030783795
Kn_K11 L_L4 L_L6 -0.121872647181
Kn_K12 L_L5 L_L6 0.0260726774797
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_21 1 2 3 4 REF
C_C1 1 REF 0.3955542520956pf
C_C2 1 2 31.184573760978pf
C_C3 1 3 0.0128627563336pf
C_C4 1 4 0.402548724851pf
C_C5 2 REF 0.8448653559795pf
C_C6 2 3 0.1708310492575pf
C_C7 3 REF 1.064258020509pf
C_C8 4 REF 1.0599398285025pf
L_L1 1 5 0.9343075700611nh
R_RL1 5 2 0.1356540800878
L_L2 3 6 1.2887709931885nh
R_RL2 6 4 1.0338865991e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_22 1 2 3 4 REF
C_C1 1 REF 0.5104059616477pf
C_C2 1 2 16.714416952847pf
C_C3 1 3 0.0707522990504pf
C_C4 1 4 0.2401292768395pf
C_C5 2 REF 0.7461861001727pf
C_C6 2 3 0.1151852331771pf
C_C7 3 REF 1.0649603874698pf
C_C8 4 REF 1.0571718448681pf
L_L1 1 5 1.2685615319495nh
R_RL1 5 2 -8.529810718e-3
L_L2 3 6 1.2863123367998nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_23 1 2 3 4 REF
C_C1 1 REF 0.5626559245965pf
C_C2 1 2 10.723302755264pf
C_C3 1 3 0.100615623834pf
C_C4 1 4 0.1713527888809pf
C_C5 2 REF 0.7119745276438pf
C_C6 2 3 0.0889314407542pf
C_C7 2 4 0.0307659930088pf
C_C8 3 REF 1.0646563724488pf
C_C9 4 REF 1.0549009917846pf
L_L1 1 5 1.6575233341812nh
R_RL1 5 2 -0.101460510478
L_L2 3 6 1.2835836289239nh
R_RL2 6 4 -5.132611659e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_24 1 2 3 4 REF
C_C1 1 REF 0.5887624667493pf
C_C2 1 2 8.2616581790373pf
C_C3 1 3 0.122509338283pf
C_C4 1 4 0.1394391397759pf
C_C5 2 REF 0.7046378112609pf
C_C6 2 3 0.0729866387434pf
C_C7 2 4 0.0682146700603pf
C_C8 3 REF 1.062704868098pf
C_C9 4 REF 1.0530158977975pf
L_L1 1 5 1.8408652935778nh
R_RL1 5 2 -0.017733438886
L_L2 3 6 1.2800575696309nh
R_RL2 6 4 -1.163651461e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_25 1 2 3 4 REF
C_C1 1 REF 0.6023296454624pf
C_C2 1 2 7.8232897787859pf
C_C3 1 3 0.1459286749104pf
C_C4 1 4 0.1235303151837pf
C_C5 2 REF 0.7163184463239pf
C_C6 2 3 0.0565817794869pf
C_C7 2 4 0.0912195645979pf
C_C8 3 REF 1.0606775324353pf
C_C9 4 REF 1.050664575031pf
L_L1 1 5 1.8633383394014nh
R_RL1 5 2 -1.546233036e-3
L_L2 3 6 1.2757301248337nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_26 1 2 3 4 REF
C_C1 1 REF 0.6048877384648pf
C_C2 1 2 8.4367572108772pf
C_C3 1 3 0.1665802862042pf
C_C4 1 4 0.1175262454716pf
C_C5 2 REF 0.7339583196724pf
C_C6 2 3 0.0414031110134pf
C_C7 2 4 0.1030143199469pf
C_C8 3 REF 1.0591567143906pf
C_C9 4 REF 1.0486631835879pf
L_L1 1 5 1.7504468410195nh
R_RL1 5 2 3.0114208824e-5
L_L2 3 6 1.2738716114132nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param06_26

